US06660744B1
A solution of cis 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-cyclobutanol (0.113 g, 0.000302 mol), 4-nitrobenzoic acid (0.101 g, 0.000605 mol) and triphenylphosphine (0.159 g, 0.000605 mol) in tetrahydrofuran (5 mL) was cooled to 0° C. Diethyl azodicarboxylate (0.096 mL, 0.159 g, 6.000605 mol) was added dropwise, keeping the temperature below 10° C. The mixture was allowed to come to room temperature over eighteen hours. The solvent was removed in vacuo and the residue was purified by flash column chromatography on silica using heptane/ethyl acetate (3:1). The solvent was removed in vacuo to give trans 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclobutyl 4-nitrobenzoate (0.081 g, 0.000164 mmol) as a tan solid.

reactant | cis 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-cyclobutanol | 0.000302 mol, 0.113 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)[C@H]2C[C@H](C2)O | C21H19N5O2
reactant | 4-nitrobenzoic acid | 0.000605 mol, 0.101 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | triphenylphosphine | 0.000605 mol, 0.159 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 6.000605 mol, 0.096 mL, 0.159 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | trans 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclobutyl 4-nitrobenzoate | 0.000164 mmol, 0.081 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C2)N2N=C(C=3C2=NC=NC3N)C3=CC=C(C=C3)OC3=CC=CC=C3)C=C1 | C28H22N6O5
